US03931323
3-Methyl-5-[2,6,6-trimethyl-cyclohex-2-en-1-yl]-isoxazole
54 g of 4-[2,6,6-trimethyl-cyclohex-2-en-1-yl]-3,4-epoxy-2-butanone-oxime, which can be prepared as indicated above, in 500 ml of benzene were refluxed in the presence of 2 g of p-toluenesulphonic acid for about 4 hours. The water formed in the course of the reaction was removed as it formed by azeotropic distillation.

reactant | 4-[2,6,6-trimethyl-cyclohex-2-en-1-yl]-3,4-epoxy-2-butanone-oxime | 54 g | CC=1C(C(CCC1)(C)C)C1C(C(C)=NO)O1 | C13H21NO2
reactant | p-toluenesulphonic acid | 2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | benzene | 500 ml | C1=CC=CC=C1 | C6H6
product | 3-Methyl-5-[2,6,6-trimethyl-cyclohex-2-en-1-yl]-isoxazole | CC1=NOC(=C1)C1C(=CCCC1(C)C)C | C13H19NO
